US07816522B2
(181c) 4-({[2-fluoro-3-(2-hydroxyethoxy)-5-methoxyphenyl]-(5-oxo-1-pyrimidin-2-yl-4,5-dihydro-1H-[1,2,4]triazol-3-yl)methyl}amino)benzonitrile
After dissolving 3.4 g of 4-[({3-[2-(t-butyldimethylsilanyloxy)ethoxy]-2-fluoro-5-methoxyphenyl}-(5-oxo-1-pyrimidin-2-yl-4,5-dihydro-1H-[1,2,4]triazol-3-yl)methyl)amino]benzonitrile in 100 ml of acetic acid, 5 ml of water was added and the mixture was stirred overnight at 50° C. The reaction mixture was concentrated, and the residue was purified by NAM silica gel column chromatography (methanol-ethyl acetate) to give the title compound (2.25 g) as a light yellow solid.

reactant | 4-[({3-[2-(t-butyldimethylsilanyloxy)ethoxy]-2-fluoro-5-methoxyphenyl}-(5-oxo-1-pyrimidin-2-yl-4,5-dihydro-1H-[1,2,4]triazol-3-yl)methyl)amino]benzonitrile | 3.4 g | [Si](C)(C)(C(C)(C)C)OCCOC=1C(=C(C=C(C1)OC)C(C1=NN(C(N1)=O)C1=NC=CC=N1)NC1=CC=C(C#N)C=C1)F | C29H34FN7O4Si
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | 5 ml | O | H2O
product | 4-({[2-fluoro-3-(2-hydroxyethoxy)-5-methoxyphenyl]-(5-oxo-1-pyrimidin-2-yl-4,5-dihydro-1H-[1,2,4]triazol-3-yl)methyl}amino)benzonitrile | 2.25 g | FC1=C(C=C(C=C1OCCO)OC)C(C1=NN(C(N1)=O)C1=NC=CC=N1)NC1=CC=C(C#N)C=C1 | C23H20FN7O4
